US04643990
3-Hexadecanoyloxyoctadecanoic acid (10.8 g) prepared by the method described in Preparation A-2 (5) and N-hydroxysuccinimide (2.3 g) was dissolved in dioxane (60 ml). N,N'-Dicyclohexylcarbodiimide (4.2 g) was added thereto under ice cooling. The mixture was stirred at ambient temperature over-night. The crystallized N,N'-dicyclohexylurea was filtered off and the filtrate was concentrated to give a residue. The residue was dissolved in N,N-dimethylformamide (70 ml). To this solution was added a solution of L-valine (5.85 g) and triethylamine (6.95 ml) in water (50 ml) at 0° C. The resulting mixture was stirred at ambient temperature overnight. The reaction mixture was acidified with 1N hydrochloric acid, extracted with ethyl acetate, washed with water and dried over magnesium sulfate. Ethyl acetate was distilled off to give a residue which was crystallized from petroleum ether to give crystals of N-(3-hexadecanoyloxyoctadecanoyl)-L-valine (8 g).

reactant | 3-Hexadecanoyloxyoctadecanoic acid | 10.8 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCCCCCCCCC | C34H66O4
reactant | N-hydroxysuccinimide | 2.3 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N'-Dicyclohexylcarbodiimide | 4.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | L-valine | 5.85 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
solvent | triethylamine | 6.95 ml | C(C)N(CC)CC | C6H15N
product | N-(3-hexadecanoyloxyoctadecanoyl)-L-valine | 8 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCCCCCCCCC | C39H75NO5
